US05225402
1-(4-Piperidinyl)-3,4-dihydrocarbostyril (0.8 g) is dissolved in dichloromethane (20 ml) and thereto is added phenylisocyanate (0.57 ml) and the mixture is stirred at room temperature for 4 hours. The solvent is concentrated and the residue is purified by silica gel column chromatography (solvent; n-hexane:ethyl acetate=5:1) and recrystallized from n-hexane/ethanol to give 1-(1-anilinocarbonyl-4-piperidinyl)-3,4-dihydrocarbostyril (0.8 g), as white powder, m.p. 194°-196° C.

reactant | 1-(4-Piperidinyl)-3,4-dihydrocarbostyril | 0.8 g | N1CCC(CC1)N1C(=O)CCC2=CC=CC=C12 | C14H18N2O
reactant | phenylisocyanate | 0.57 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-(1-anilinocarbonyl-4-piperidinyl)-3,4-dihydrocarbostyril | 0.8 g | N(C1=CC=CC=C1)C(=O)N1CCC(CC1)N1C(=O)CCC2=CC=CC=C12 | C21H23N3O2
